US06936608B2
A mixture of 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (37.62 g, 0.141 mol), 2-bromobenzonitrile (35.30 g, 0.194 mol) and tetrakis(triphenylphosphine)palladium(0) (5.85 g, 5.06 mmol) in ethylene glycol dimethyl ether (350 ml) and saturated aqueous NaHCO3 (150 ml) was degassed by bubbling nitrogen through the mixture for 30 min. The mixture was then stirred at 90° C. under nitrogen for 15 h. After allowing to cool, the mixture was partitioned between dichloromethane (500 ml) and water (400 ml). The organic layer was washed with brine, dried (MgSO4), then passed through a pad of Florisil®, washing the product through with more dichloromethane. The filtrates were evaporated in vacuo, and the residue was triturated with diethyl ether (100 ml) and isohexane (100 ml). The resulting solid was collected by filtration, washed with 50% Et2O/isohexane and dried under vacuum to give 14.82 g (43%) of 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile as a white solid. The combined filtrates were concentrated in vacuo to approximately 100 ml and the resulting solid was collected by filtration, washed with 20% Et2O/isohexane and dried under vacuum to give another 0.94 g (3%) of the product. The filtrates were evaporated in vacuo, and the residue was purified by flash chromatography (silica gel, 10-15% EtOAc/isohexane) to afford another 3.07 g (9%) of the product: 1H NMR (360 MHz, CDCl3) δ 7.40 (1H, t, J 8.5 Hz), 7.53 (1H, d, J 7.8 Hz), 7.59 (1H, td, J 7.7, 1.1 Hz), 7.74 (1H, td, J 7.7, 1.3 Hz), 7.84 (1H, dd, J 7.7, 0.9 Hz), 8.34-8.39 (2H, m).

reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.141 mol, 37.62 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
reactant | 2-bromobenzonitrile | 0.194 mol, 35.30 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | ethylene glycol dimethyl ether | 350 ml | COCCOC | C4H10O2
solvent | NaHCO3 | 150 ml | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.06 mmol, 5.85 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile | 14.82 g, 43% | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1C(=CC=CC1)C#N | C13H7FN2O2
